* C:\git\ltspice-projects\Juno filter - xm8 half volt octave - 24kHz max with expo converter.asc
R1 N017 N012 4.7k
R2 0 N017 560
C1 N026 0 270pF
R3 N013 N017 68k
R4 cutoff_cc N022 10k
R5 N018 N013 68k
R6 0 N018 560
C2 N027 0 270pF
R7 N014 N018 68k
R8 cutoff_cc N023 10k
R9 N019 N014 68k
R10 0 N019 560
C3 N028 0 270pF
R11 N015 N019 68k
R12 cutoff_cc N024 10k
R13 N020 N015 68k
R14 0 N020 560
C4 N029 0 270pF
R15 N016 N020 68k
R16 cutoff_cc N025 10k
R17 N021 N016 100k
R18 0 N021 1.5k
R19 N010 0 1.5k
XU1 NC_01 0 N017 N022 N026 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N018 N023 N027 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N019 N024 N028 15V -15V 0 NC_06 HALF13700
XU7 NC_07 N010 N021 resonance_cc N017 15V -15V 0 NC_08 HALF13700
XU9 0 0 N020 N025 N029 15V -15V 0 NC_09 HALF13700
Q2 resonance_cc 0 P001 0 PNP
R21 P001 N009 6.8k
XU11 NC_10 P002 N036 VCA_I_ABC N031 15V -15V 0 NC_11 HALF13700
R23 N036 0 560
R24 P002 0 560
R25 N036 N035 4.7k
C6 P003 N016 1µ
R27 N034 P003 22k
R28 N035 N037 2.2MEG
R31 N035 N034 82k
R32 N010 N012 24k
R34 N008 N007 10k
R35 N002 N008 8k2
R36 0 N002 560
C7 N008 0 0.1µ
Q3 N001 0 N004 0 PNP
Q4 cutoff_cc N002 N004 0 PNP
R40 N004 N006 1.5k
R41 -15V N001 1.5MEG
C8 N001 N006 47p
R42 N003 -15V 390k
R43 N003 FREQ_CV 49.9k
R44 N005 N003 100k
V4 15V 0 15
V5 0 -15V 15
XU10 N001 0 N006 opamp Aol=100K GBW=10Meg
XU13 N003 0 N005 opamp Aol=100K GBW=10Meg
R20 N003 P004 100k
XU14 15V -15V P004 pot_lin Rtot=220K wiper=1
XU3 N013 N026 N013 opamp Aol=100K GBW=10Meg
XU4 N014 N027 N014 opamp Aol=100K GBW=10Meg
XU6 N015 N028 N015 opamp Aol=100K GBW=10Meg
XU8 N016 N029 N016 opamp Aol=100K GBW=10Meg
XU15 N007 N005 N005 pot_lin Rtot=20K wiper=.404
Q1 VCA_I_ABC 0 P005 0 PNP
R33 P005 N033 22k
R37 N033 VCA_CV 10k
C9 0 N033 100n
V6 FREQ_CV 0 5
V7 VCA_CV 0 5
V12 RESO_CV 0 0
V1 IN 0 SINE(0 5 5000) AC 1
XU16 15V -15V N037 pot_lin Rtot=100K wiper=.41
R29 IN N011 100k
XU17 N011 0 N012 opamp Aol=100K GBW=10Meg
R38 N011 N012 3.3k
XU18 RESO_CV N009 RESO_CV pot_lin Rtot=20K wiper=.5
XU19 N031 0 N032 opamp Aol=100K GBW=10Meg
XU20 N030 0 OUT opamp Aol=100K GBW=10Meg
R22 N031 N032 47k
R30 N030 OUT 82k
R39 N032 N030 22k
C5 OUT N030 22p
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
* Resonance
.tran 0 0.01 0 0.01
.lib opamp.sub
* Opamp: 3.84V to -6.17V (0 to 5V cv) \ni.e. 10V output range
.step param acv 0V 5V 1V
* 21.92k gir 17.9mV
;ac oct 100 0.1 180000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* Must recheck these values, external to circuit
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* TODO: Set default non-tuned frequency\nto same as moog filter.
* 10k + 27k for 0-10V cv
* Summing point\nUse 100k resistor
* Audio:\nMax 10v p.p
* 24dB
* 12dB
* Switching: 4051 or 4066, both can use \n+/- 7.5V rails and switch within those. \nmax swing here at 20Vp.p is less than\n10Vpp.\n \nVishay DG419DY-E3 er +/-15V @11kr/stk (SPDT)
* The cap here acts as a LP filter.\nWith 22p/82k we get a cutoff of about 50kHz.\nIt may be necessary to adjust this.
.lib potentiometer_standard.lib
.backanno
.end
