* C:\git\ltspice-projects\Juno filter - xm8 half volt octave - correct juno VCA and RESO CVs.asc
R1 N016 N011 4.7k
R2 0 N016 560
C1 N025 0 270pF
R3 N012 N016 68k
R4 cutoff_cc N021 10k
R5 N017 N012 68k
R6 0 N017 560
C2 N026 0 270pF
R7 N013 N017 68k
R8 cutoff_cc N022 10k
R9 N018 N013 68k
R10 0 N018 560
C3 N027 0 270pF
R11 N014 N018 68k
R12 cutoff_cc N023 10k
R13 N019 N014 68k
R14 0 N019 560
C4 N028 0 270pF
R15 N015 N019 68k
R16 cutoff_cc N024 10k
R17 N020 N015 100k
R18 0 N020 1.5k
R19 N009 0 1.5k
XU1 NC_01 0 N016 N021 N025 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N017 N022 N026 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N018 N023 N027 15V -15V 0 NC_06 HALF13700
XU7 NC_07 N009 N020 RESO_I_ABC N016 15V -15V 0 NC_08 HALF13700
XU9 0 0 N019 N024 N028 15V -15V 0 NC_09 HALF13700
XU11 NC_10 P001 N038 VCA_I_ABC N034 15V -15V 0 NC_11 HALF13700
R23 N038 0 560
R24 P001 0 560
R25 N038 N037 4.7k
C6 N036 N015 1µ
R28 N037 N042 2.2MEG
R31 N037 N033 82k
R32 N009 N011 24k
R34 N008 N007 10k
R35 N002 N008 8k2
R36 0 N002 560
C7 N008 0 0.1µ
Q3 N001 0 N004 0 PNP
Q4 cutoff_cc N002 N004 0 PNP
R40 N004 N006 1.5k
R41 -15V N001 1.5MEG
C8 N001 N006 47p
R42 N003 -15V 390k
R43 N003 FREQ_CV 49.9k
R44 N005 N003 100k
V4 15V 0 15
V5 0 -15V 15
XU10 N001 0 N006 opamp Aol=100K GBW=10Meg
XU13 N003 0 N005 opamp Aol=100K GBW=10Meg
R20 N003 P002 100k
XU14 15V -15V P002 pot_lin Rtot=220K wiper=1
XU3 N012 N025 N012 opamp Aol=100K GBW=10Meg
XU4 N013 N026 N013 opamp Aol=100K GBW=10Meg
XU6 N014 N027 N014 opamp Aol=100K GBW=10Meg
XU8 N015 N028 N015 opamp Aol=100K GBW=10Meg
XU15 N007 N005 N005 pot_lin Rtot=20K wiper=.404
Q1 VCA_I_ABC 0 P003 0 PNP
R33 P003 N031 22k
R37 N031 N030 10k
C9 0 N031 100n
V6 FREQ_CV 0 10
V7 VCA_CV 0 5
V12 RESO_CV 0 0
V1 IN 0 SINE(0 10 5000) AC 1
XU16 15V -15V N042 pot_lin Rtot=100K wiper=.41
R29 IN N010 100k
XU17 N010 0 N011 opamp Aol=100K GBW=10Meg
R38 N010 N011 3.3k
XU19 N034 0 N035 opamp Aol=100K GBW=10Meg
XU20 N032 0 OUT opamp Aol=100K GBW=10Meg
R22 N034 N035 47k
R30 N032 OUT 82k
R39 N035 N032 47k
C5 OUT N032 22p
R26 P004 N029 470k
XU12 N029 VCA_CV N030 opamp Aol=100K GBW=10Meg
R45 N029 N030 10k
R46 N029 0 10k
XU21 0 -15V P004 pot_lin Rtot=10K wiper=0.15
Q5 RESO_I_ABC 0 P005 0 PNP
R47 P005 N041 27k
R49 P006 N039 470k
XU22 N039 RESO_CV N040 opamp Aol=100K GBW=10Meg
R50 N039 N040 10k
R51 N039 0 10k
XU23 0 -15V P006 pot_lin Rtot=10K wiper=0.15
XU24 N040 NC_12 N041 pot_lin Rtot=20K wiper=1
XU18 N036 NC_13 N033 pot_lin Rtot=50K wiper=.5
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
.tran 0 0.001 0 0.01
.lib opamp.sub
* Opamp: 3.84V to -6.17V (0 to 5V cv) \ni.e. 10V output range
.step param acv 0V 5V 1V
* 21.92k gir 17.9mV
;ac oct 100 0.1 180000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* Must recheck these values, external to circuit
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* TODO: Set default non-tuned frequency\nto same as moog filter.
* Summing point\nUse 100k resistor
* Audio:\nMax 10v p.p
* 24dB
* 12dB
* Switching: 4051 or 4066, both can use \n+/- 7.5V rails and switch within those. \nmax swing here at 20Vp.p is less than\n10Vpp.\n \nVishay DG419DY-E3 er +/-15V @11kr/stk (SPDT)
* The cap here acts as a LP filter.\nWith 22p/82k we get a cutoff of about 50kHz.\nIt may be necessary to adjust this.
;dc v7 0 5 0.01
* VCA Gain (amplitude)
* Tune to 0.25 to 0.27V\nat output of U12/U22 when CV is 0,\nsets I_abc to 0A when\nCV = 150mV
* VCA offset
* max -301uA
* max -205 to -356uA
.lib potentiometer_standard.lib
.backanno
.end
