* C:\git\ltspice-projects\Jupiter 6 filter - proper CV.asc
R1 N033 N030 68k
R2 0 N033 560
C1 N040 0 330p
R4 cutoff_cc N039 10k
R5 N034 N024 68k
R6 0 N034 560
C2 N042 0 330p
R8 cutoff_cc N041 10k
R9 N035 N029 68k
R10 0 N035 560
C3 N044 0 330p
R12 cutoff_cc N043 10k
R13 N036 N026 68k
R14 0 N036 560
C4 N046 0 330p
R16 cutoff_cc N045 10k
XU1 NC_01 0 N033 N039 N040 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N034 N041 N042 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N035 N043 N044 15V -15V 0 NC_06 HALF13700
XU9 NC_07 0 N036 N045 N046 15V -15V 0 NC_08 HALF13700
XU11 NC_09 P001 N055 N050 N052 15V -15V 0 NC_10 HALF13700
R23 N055 0 560
R24 P001 0 560
R25 N055 N054 4.7k
C5 OUT N052 47p
R26 OUT N052 91k
C6 P002 N047 1µ
R27 N053 P002 39k
R28 N054 N056 2.2MEG
R31 N054 N053 82k
R3 N030 N022 100k
R7 0 N037 33k
R11 0 N037 10k
R15 N018 N037 47k
C7 N037 0 33p
R33 N032 N020 56k
R34 NC_11 N030 56k
R35 N023 N032 100k
R36 N029 N023 100k
C8 N038 0 33p
R37 N038 0 33k
D2 N038 N048 D
D3 N048 N038 D
R38 N048 0 10k
R39 N048 N026 47k
R17 N047 N021 10k
R18 NC_12 N029 10k
XU7 NC_13 0 N025 N028 N023 15V -15V NC_14 NC_15 HALF13700
R19 N026 N025 68k
R40 0 N025 560
R41 N021 N023 100k
C9 N021 N023 5p
XU15 NC_16 0 N019 N027 N022 15V -15V NC_17 NC_18 HALF13700
R42 N024 N019 68k
R43 0 N019 560
R44 N020 N022 100k
C10 N020 N022 5p
R32 N006 N005 10k
R45 N007 N006 8k2
R46 0 N007 560
C11 N006 0 0.1µ
Q3 N009 0 N011 0 PNP
Q4 cutoff_cc N007 N011 0 PNP
R47 N011 N013 1.5k
R48 -15V N009 1.5MEG
C12 N009 N013 47p
R49 N002 -15V 390k
R50 N002 FREQ_CV 49.9k
R51 N003 N002 100k
V13 15V 0 15
V14 0 -15V 15
XU16 N009 0 N013 opamp Aol=100K GBW=10Meg
XU17 N002 0 N003 opamp Aol=100K GBW=10Meg
R52 N002 P003 100k
XU18 15V -15V P003 pot_lin Rtot=220K wiper=0.61
XU19 N005 N003 N003 pot_lin Rtot=20K wiper=0.7
V15 FREQ_CV 0 2
V16 VCA_CV 0 5
V17 RESO_CV 0 0
V18 IN 0 SINE(0 10 50) AC 1
XU10 15V -15V N056 pot_lin Rtot=100K wiper=.437
XU3 N024 N040 N024 opamp Aol=100K GBW=10Meg
XU4 N022 N037 N030 opamp Aol=100K GBW=10Meg
XU6 N020 N042 N020 opamp Aol=100K GBW=10Meg
XU8 N026 N044 N026 opamp Aol=100K GBW=10Meg
XU12 N021 N046 N021 opamp Aol=100K GBW=10Meg
XU13 N052 0 OUT opamp Aol=100K GBW=10Meg
XU14 N023 N038 N029 opamp Aol=100K GBW=10Meg
Q1 N051 0 P004 0 PNP
R20 P004 N049 2.7k
R29 N049 VCA_CV 1.2k
C13 0 N049 100n
R30 N051 N050 1
R53 N018 N019 33k
R55 N004 RESO_CV 130k
R56 0 N004 1.2k
Q5 N008 0 N010 0 PNP
Q6 resonance_cc N004 N010 0 PNP
R57 N010 N012 1.5k
R58 -15V N008 1.5MEG
C15 N008 N012 47p
XU20 N008 0 N012 opamp Aol=100K GBW=10Meg
XU23 15V -15V N001 pot_lin Rtot=100K wiper=0.25
R63 N004 N001 1MEG
R64 N004 -15V 180k
R21 IN N031 100k
XU21 N031 0 N018 opamp Aol=100K GBW=10Meg
R22 N031 N018 5k
R54 N027 resonance_cc 10k
R59 N028 resonance_cc 10k
XU22 NC_19 0 0 N014 N016 15V -15V NC_20 NC_21 HALF13700
R60 N014 resonance_cc 10k
XU24 NC_22 0 0 N015 N017 15V -15V NC_23 NC_24 HALF13700
R61 N015 resonance_cc 10k
R62 NC_25 N024 56k
R65 NC_26 N026 10k
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
;tran 0 1 0 0.1
;tran 0 0.01 0 0.1
;tran 0 0.01 0 0.1
.ac oct 100 0.1 20000
* R27:\n27k when tapped at 12dB with second stage connected\n50k when 24dB\n1Ohm when BP\n \nR31:\n82k for all but BP\n27k when BP
;tran 0 1 0 0.1
.lib opamp.sub
* Juno 106 CV converter
* Opamp: 3.84V to -6.17V (0 to 5V cv) \ni.e. 10V output range
* 21.92k gir 17.9mV
;ac oct 100 0.1 20000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* Must recheck these values, external to circuit
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* TODO: 0-5V CV for output amp
* TODO: 5V Resonance control
* TODO: Set default non-tuned frequency\nto same as moog filter.
* Discovered missing feedback 33k
.lib opamp.sub
* Summing point\nUse 100k resistor
* 20v p.p:\nR22: 5k, R26 91k, R27 39k (R29:1.2k, R20: 2.7k)
* TODO: This acts as a LP filter\nand must be removed to reach\n20kHz
* Wiper at 0.25 gives output of -124uA per I_abc.\nThis results in a response that has a 10.4dB \ndrop at the same frequency as the resonance top,\nwhich is similar to the Juno filter (not perfect, but\nmaybe close enough).\n \nThis setting gives min/max I_abc as follows:\n0V CV = -124uA, -1.5dB normal\n5V CV = -25.8uA, -12.7dB normal, +3.7dB peak, 16.5dB delta\n10.7V CV = -3.65uA, -21.4dB normal, +26.5dB peak, 48dB delta\n \nA linear approximation should then for example \ncover from 0 to -150uA (and be tuned in both \nends).
* HP
* LP
* BP
* LP
* HP
* BP
.lib potentiometer_standard.lib
.backanno
.end
